US07037908B2
N-(3,4-difluorobenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and 3,4-difluorobenzylamine (72 mg, 0.5 mmol). The title product was obtained as an off-white solid (32.7 mg, 80% yield). 1HNMR (500 MHz, CDCl3) δ: 12.18 (1H, s), 7.83 (1H, br s), 7.53–7.47 (1H, m), 7.15–7.02 (5H, m), 4.53 (2H, d, J=6.41 Hz), 3.41 (3H, s). HRMS (ESI) calcd for C19H14F4N3O3 (M+H): 408.0971; found: 408.0969.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | 3,4-difluorobenzylamine | 0.5 mmol, 72 mg | FC=1C=C(CN)C=CC1F | C7H7F2N
product | N-(3,4-difluorobenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2F)F)C=CC1F | C19H13F4N3O3
